US04175085
0.3 G. of 3,4-dihydro-4-methoxycarbonyl-2-methyl-3-oxo-2H-thieno[2,3-e]1,2-thiazine 1,1-dioxide and 0.13 g. of 2-aminopyridine are dissolved in 30 ml. of absolute xylene and the solution is heated for 1 hour under reflux. After cooling, the crystals are removed by filtration and recrystallized from glacial acetic acid. 3,4-Dihydro-2-methyl-3-oxo-4-(2-pyridyl-carbamoyl)-2H-thieno[2,3-e]1,2-thiazine 1,1-dioxide, melting point 255° C. to 256° C. (decomposition), is obtained.

reactant | 3,4-dihydro-4-methoxycarbonyl-2-methyl-3-oxo-2H-thieno[2,3-e]1,2-thiazine 1,1-dioxide | COC(=O)C1C(N(S(C2=C1SC=C2)(=O)=O)C)=O | C9H9NO5S2
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3,4-Dihydro-2-methyl-3-oxo-4-(2-pyridyl-carbamoyl)-2H-thieno[2,3-e]1,2-thiazine 1,1-dioxide | CN1S(C2=C(C(C1=O)C(NC1=NC=CC=C1)=O)SC=C2)(=O)=O | C13H11N3O4S2
